US08530493B2
56. (3aSR,10RS)-2-(3-Chloro-propyl)-6-(1,1-difluoro-methoxy)-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione
The title compound is prepared analogously to the procedure described for example 22, using chloro propyl isocyanate and (1RS,3SR)-6-(1,1-difluoro-methoxy)-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester. MS: m/z (MH+)=490.0

reactant | chloro propyl isocyanate | ClCCCN=C=O | C4H6ClNO
reactant | (1RS,3SR)-6-(1,1-difluoro-methoxy)-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OC(F)F)C1=CC(=CC=C1)O)C | C21H20F2N2O4
product | (3aSR,10RS)-2-(3-Chloro-propyl)-6-(1,1-difluoro-methoxy)-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione | ClCCCN1C(C2(N(C(C=3NC4=CC=C(C=C4C3C2)OC(F)F)C2=CC(=CC=C2)O)C1=O)C)=O | C24H22ClF2N3O4
